US08304419B2
To a solution of 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-3-carboxylic acid (0.075 g, 0.368 mmol) in DMF (1 ml) was added HATU (0.168 g, 0.442 mmol), DIPEA (0.097 ml, 0.553 mmol) and methyl amine (2M in THF) (0.276 ml, 0.553 mmol). The reaction mixture was stirred at RT overnight. Purification was accomplished by HPLC, the desired fractions collected and lypholized to afford methyl 3-chloro-4-[(methylamino)carbonyl]-1H-pyrrole-2-carboxylate (0.046 g, 57.6% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.39 (br. s., 1H) 7.73-7.83 (m, 1H) 7.46 (d, 1H) 3.80 (s, 3H) 2.70 (d, 3H). MS: m/z 217.0 (M+1).

reactant | 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-3-carboxylic acid | 0.368 mmol, 0.075 g | ClC=1C(=CNC1C(=O)OC)C(=O)O | C7H6ClNO4
reactant | HATU | 0.442 mmol, 0.168 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.553 mmol, 0.097 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl amine | 0.553 mmol, 2M, 0.276 ml | CN | CH5N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | methyl 3-chloro-4-[(methylamino)carbonyl]-1H-pyrrole-2-carboxylate | 0.046 g, 57.6% yield | ClC1=C(NC=C1C(=O)NC)C(=O)OC | C8H9ClN2O3
